US03974150
Diphenylmethyl (6R, 7R)-7-Isocyano-3-methylceph-3-em-4-carboxylate
A solution of phosgene (3.27 g., 33 mmole) in methylene chloride (ca. 25 ml.) at =20° was added to a stirred solution of diphenylmethyl (6R, 7R)-7-formamido-3-methyl-ceph-3-em-4- carboxylate (prepared as described in Belgian Pat. No. 761,897) (12.24 g., 30 mmole) in methylene chloride (500 ml.) containing pyridine (12 ml., 150 mmole), at -20°. The solution was washed with water (2 × 250 ml.) and the organic layers combined with the methylene chloride backwash (250 ml.) of the aqueous layers, dried, and evaporated to a brown foam, which was then dissolved in ethyl acetate (100 to 150 ml.). This solution was added to petroleum-ether (b.p. 40° to 60°) to precipitate the product, which was isolated by filtration and dried to give the title compound as a pale-pink solid (9.539 g., 24.4 mmole, 81.5%); m.p. 117° - 118°; [α]D ± 0°; λmax. 252.5 nm (ε 7,030); λinf. 257,263.5 nm (ε 6,960; 6,480); νmax. 2150 (C=N), 1795 (azetidin-2-one), 1722 (CO2R), 1498, 752 and 735 cm.-1 ( [C6H5 ]2CH); τ 2.40 to 2.80 (m,[C6H5 ]2CH), 3.04 (s,[C6H5 ]2CH), 4.88 (d, J 4.5 Hz, C7 -H), 5.10 (d, J 4.5 Hz, C6 -H), 6.69 (s, C2 -H2), 7.81 (s, C 3 -CH3). (Found: C, 67.2; H, 4.8; N, 6.9; S, 8.1; C22H18N2O3S (390.4) requires: C, 67.6; H, 4.6; N, 7.2; S, 8.2%).

reactant | phosgene | 33 mmole, 3.27 g | C(=O)(Cl)Cl | CCl2O
reactant | diphenylmethyl (6R, 7R)-7-formamido-3-methyl-ceph-3-em-4- carboxylate | C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C22H20N2O4S
reactant | pyridine | 150 mmole, 12 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | ca. 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | Diphenylmethyl (6R, 7R)-7-Isocyano-3-methylceph-3-em-4-carboxylate | 24.4 mmole, 9.539 g, 81.5% | [N+](#[C-])[C@H]1[C@@H]2N(C(=C(CS2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C22H18N2O3S
